US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (973 mg, 4.0 mM), a-bromo-m-tolunitrile (1.0 g, 4.9 mM), and potassium carbonate (553 mg, 4.0 mM) in 10 mL of DMF was stirred at 25° C. for 24 hours. The mixture was diluted with ethyl acetate, washed five times with H2O, 1 N HCl, H2O, sat NaHCO3, H2O, and saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated. The residue was dried in vacuo to afford 1.18 g (82%) of the 9-[(3-cyanophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a tan solid. 1H NMR (CDCl3) δ 7.65-7.2 (m, 6H), 7.15 (d, 1H, J=8 Hz), 5.4 (s, 2H), 4.05 (s, 3H), 2.85 (t, 2H, J=6 Hz), 2.6 (t, 2H, J=6 Hz), and 2.25 (m, 2H). IR (KBr, cm−1) 2226, 1729, and 1646. MS (ES) m/e 357, 359.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 4.0 mM, 973 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | a-bromo-m-tolunitrile | 4.9 mM, 1.0 g | C1=CC(=CC(=C1)CBr)C#N | C8H6BrN
reactant | potassium carbonate | 4.0 mM, 553 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(3-cyanophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.18 g, 82% | C(#N)C=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C22H18N2O3
